US04340736
5-Propyl-5-(p-aminophenyloxycarbonyl-isopropyl)barbituric acid
A solution of 750 g. of 5-allyl-5-(p-aminophenyloxycarbonyl-isopropyl)barbituric acid in 15 ml. of ethanol containing 100 mg. of 10% palladium-on-carbon as catalyst was subjected to hydrogenation at room temperature and atmospheric pressure. After one hour, the required amount (180 ml.) of hydrogen had been taken up. The reaction mixture was filtered through Celite, and the filtrate was evaporated to dryness. The residue was chromatographed on 13 g. of silica gel with ethyl acetate as the eluent. Fractions containing the desired product were evaporated. The remaining solid was recrystallized from chloroform/ether to afford 620 mg. (89%) of the ester, m.p. 212°-215°.

reactant | 5-allyl-5-(p-aminophenyloxycarbonyl-isopropyl)barbituric acid | C(C=C)C1(C(NC(NC1=O)=O)=O)C(C)(C)C(=O)OC1=CC=C(C=C1)N | C17H19N3O5
reactant | hydrogen | 180 ml | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | 100 mg | C(C)O | C2H6O
product | 5-Propyl-5-(p-aminophenyloxycarbonyl-isopropyl)barbituric acid | C(CC)C1(C(NC(NC1=O)=O)=O)C(C)(C)C(=O)OC1=CC=C(C=C1)N | C17H21N3O5
